Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Ibuprofen
 
Attending: ___
 
Chief Complaint:
Painful contractions
 
Major Surgical or Invasive Procedure:
SVD
Blood transfusions

 
History of Present Illness:
HPI: ___ G4P1 at 38w2d with painful ctx and LOF. No VB, LOF.
+FM.
 
PNC: 
- ___ ___ by ___
- Labs A pos/Abs neg /Rub I /RPR NR /HBsAg NEG /HIV NEG /GBS NEG
- Screening low risk NIPT , neg CF/ deferred SMA
- FFS wnl, anterior placenta 
- GTT wnl 83
- U/S (___):  EFW 3,293 g 55%
- Issues
*) cHTN: 
- Currently stable on Labetalol 200mg BID
- Baseline PIH labs wnl and 24hr urine 270 (___)
- Start ASA at 12wks GA
- s/p MFM consult: Titrate labetalol dosage to maintain BP
120/80-160/105 mm Hg
*) h/o cervical incompetence: on vaginal progesterone
*) anterior fibroid : 31x35mm on ___ U/S
*) BMI : 33.7
*) iron deficiency anemia: f/b BIDCM hematology.  Currently
taking Fe supplement BID. s/p FE infusion

 
Past Medical History:
OBHx:
- SAB x2, SVD 37w3d 7#4
 
GynHx:
- No h/o abnormal Pap
- cervical polyp
 
PMH: anxiety

PSH: WTE
 
Social History:
SHx: denies T/E/D
 
Physical Exam:
On day of discharge:

General: NAD, A&Ox3
CV: RRR, no MRG
Lungs: CTAB
Breasts  soft, nipples intact, baby ___ has a good latch
Abd: soft, nontender, fundus firm ~4cm above umbilicus
Perineum: 1st degree intact per RN, pt declined my exam, states
she has minimal discomfort
GU: Lochia minimal
Extremities: no calf tenderness, no edema
 
Pertinent Results:
___ 07:12AM BLOOD WBC-7.6 RBC-3.60* Hgb-9.4* Hct-30.8* 
MCV-86 MCH-26.1 MCHC-30.5* RDW-13.4 RDWSD-41.5 Plt ___
___ 11:16AM BLOOD WBC-11.1* RBC-2.67* Hgb-7.0* Hct-23.0* 
MCV-86 MCH-26.2 MCHC-30.4* RDW-13.5 RDWSD-42.2 Plt ___
___ 03:03PM BLOOD WBC-11.4* RBC-2.35* Hgb-6.3* Hct-20.4* 
MCV-87 MCH-26.8 MCHC-30.9* RDW-13.6 RDWSD-42.1 Plt ___
___ 07:55AM BLOOD WBC-13.3* RBC-2.95* Hgb-7.9* Hct-25.2* 
MCV-85 MCH-26.8 MCHC-31.3* RDW-13.7 RDWSD-42.5 Plt ___
___ 08:01AM BLOOD WBC-12.2* RBC-3.02* Hgb-8.2* Hct-26.1* 
MCV-86 MCH-27.2 MCHC-31.4* RDW-14.2 RDWSD-43.6 Plt ___
___ 12:38PM BLOOD ___ PTT-26.0 ___
___ 03:03PM BLOOD ___ PTT-25.9 ___
___ 07:12AM BLOOD Creat-0.7
___ 11:16AM BLOOD Creat-0.5
___ 03:03PM BLOOD Creat-0.5
___ 07:12AM BLOOD ALT-12 AST-46*
___ 11:16AM BLOOD ALT-8 AST-15
___ 03:03PM BLOOD ALT-8 AST-14 LD(LDH)-165
___ 07:12AM BLOOD UricAcd-4.1
___ 11:16AM BLOOD UricAcd-4.2
___ 03:03PM BLOOD Hapto-62
 
Brief Hospital Course:
Ms. ___ underwent a precipitous spontaneous vaginal 
delivery on ___ complicated by a manual extraction of the 
placenta. EBL was 350cc. She has iron deficiency anemia at 
baseline requiring iron infusions as an outpatient with a 
baseline hct of 30.8. She had some dizziness and BPs ___ 
immediately post-delivery and hct was found to be 23. 
Differential diagnosis included undercall of EBL at time of 
delivery vs vaginal wall or retroperitoneal hematoma A bedside 
ultrasound showed no free fluid in the abdomen and thin 
ultrasound stripe. Exam was reassuring. Platelets and coags were 
wnl. Late on PPD#0 hct trended further down to 20.3. She was 
then transfused 2u pRBCs without issue.

On PPD#1, 6hrs after end of transfusion, her hct had risen 
appropriately to 25.2. Her vitals and exam remained stable for 
the duration of her stay.

She has chronic hypertension at baseline. She was maintained on 
her home labetolol 200mg BID with holding parameters. She had 
baseline PIH labs that were normal, and repeat labs on PPD#0 
were also normal. 

She otherwise underwent an uncomplicated postpartum course. Her 
vaginal bleeding was within normal limits. She tolerated a 
regular diet, voided spontaneously without issue, and ambulated 
independently. By postpartum day 2 after vaginal delivery, she 
was deemed stable for discharge with a plan set for postpartum 
follow up. 

 
Medications on Admission:
Labetolol 200mg PO BID
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever NOT 
relieved by Ibuprofen 
RX *acetaminophen 500 mg 1 to 2 tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 (One) capsule(s) by mouth twice a 
day Disp #*20 Capsule Refills:*0 
3.  Labetalol 100 mg PO BID 
Take BO one hour after dose, if over 150/92 take another 100mg 
tablet 
RX *labetalol 100 mg 1 (One) tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy resulting in vaginal birth
Chronic/gestational HTN
Post partum hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per written instructions reviewed by nursing and OB providers
cancel infusion for tomorrow
continue floradix iron supplement
 
Followup Instructions:
___